US08471027B2
A solution of 4-(7-chloro-4-oxo-1-pyridin-2-yl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid methyl ester (28 mg, 69.2 μmol) in tetrahydrofuran (553 μL) at 25° C. was treated with a solution of lithium hydroxide monohydrate (5.8 mg, 138 μmol) in water (138 μL). The reaction was stirred at 25° C. for 24 h. At this time, LCMS indicated that the reaction was incomplete. The reaction was treated with additional lithium hydroxide monohydrate (5.8 mg, 138 μmol). The reaction was stirred overnight at 25° C. At this time, LCMS still indicated that the reaction was incomplete. The reaction was treated with a third portion of lithium hydroxide monohydrate (5.8 mg, 138 μmol). The reaction was stirred overnight at 25° C. At this time, the reaction was diluted with water (30 mL) and extracted with methylene chloride (1×30 mL). The aqueous layer was then acidified with a 1N aqueous hydrochloric acid solution and extracted with a 10% solution of methanol/methylene chloride (3×50 mL). These organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford 4-(7-chloro-4-oxo-1-pyridin-2-yl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid (18 mg, 66.6%) as a light brown solid. ES+-HRMS m/e calcd for C22H15ClN2O3 [M+H+] 391.0844. Found 391.0835; 1H NMR (400 MHz, DMSO-d6) δ ppm 12.79 (br. s., 1H) 8.73 (dd, J=4.8, 1.2 Hz, 1H) 8.29 (s, 1H) 8.17-8.25 (m, 1H) 7.77-7.86 (m, 3H) 7.68 (dd, J=7.1, 5.2 Hz, 1H) 7.41-7.48 (m, 3H) 7.22 (d, J=1.8 Hz, 1H) 3.88 (s, 1H).

reactant | 4-(7-chloro-4-oxo-1-pyridin-2-yl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid methyl ester | 69.2 μmol, 28 mg | COC(C1=CC=C(C=C1)CC1=CN(C2=CC(=CC=C2C1=O)Cl)C1=NC=CC=C1)=O | C23H17ClN2O3
reactant | lithium hydroxide monohydrate | 138 μmol, 5.8 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 138 μmol, 5.8 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 138 μmol, 5.8 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 553 μL | O1CCCC1 | C4H8O
solvent | water | 138 μL | O | H2O
solvent | water | 30 mL | O | H2O
product | 4-(7-chloro-4-oxo-1-pyridin-2-yl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid | 18 mg, 66.6% | ClC1=CC=C2C(C(=CN(C2=C1)C1=NC=CC=C1)CC1=CC=C(C(=O)O)C=C1)=O | C22H15ClN2O3
